US04638006
A solution of hexahydro-5-oxo-1H-pyrrolizine-3-carboxylic acid ethyl ester (5.0 g, 0.0254 mol) in N,N-diethylaminoethylamine (23.2 g, 0.2 mol) is stirred at room temperature 24 hours and heated at 80° C. for 24 hours. The solution is concentrated at reduced pressure and distilled to yield N-[N,N-diethylamino-ethyl]hexahydro-5-oxo-1H-pyrrolizine-3-carboxamide

reactant | hexahydro-5-oxo-1H-pyrrolizine-3-carboxylic acid ethyl ester | 0.0254 mol, 5.0 g | C(C)OC(=O)C1CCC2CCC(N12)=O | C10H15NO3
reactant | N,N-diethylaminoethylamine | 0.2 mol, 23.2 g | C(C)NN(NCC)CC | C6H17N3
product | N-[N,N-diethylamino-ethyl]hexahydro-5-oxo-1H-pyrrolizine-3-carboxamide | C(C)N(CC)CCNC(=O)C1CCC2CCC(N12)=O | C14H25N3O2
